US07528129B2
8a) 2-ethyl-6-methyl-phenol
19.4 mL (0.23 mmol) concentrated HCl and a solution of 16.1 g (0.23 mmol) sodium nitrite in water (approx. 70 mL) were added to a solution of 30 g (222 mmol) 2-ethyl-6-methyl-aniline in 135 mL EtOH at 0° C. and the mixture was stirred for 15 min. This mixture was added at 45° C. to a solution of 10.5 mL concentrated H2SO4 in 300 mL water and at the end of the addition heated to 70° C. The aqueous phase was cooled to RT and exhaustively extracted with EtOAc. The combined organic phases were extracted with 1 M NaOH solution. The aqueous phase was washed with DCM, acidified to pH 1 with 4 N HCl solution and extracted with DCM. The organic phase was washed with saturated NaCl solution, dried over Na2SO4 and evaporated down i.vac. The crude product was used in the next reaction step without any further purification.

reactant | HCl | 0.23 mmol, 19.4 mL | Cl | ClH
reactant | sodium nitrite | 0.23 mmol, 16.1 g | N(=O)[O-].[Na+]
reactant | 2-ethyl-6-methyl-aniline | 222 mmol, 30 g | C(C)C1=C(N)C(=CC=C1)C | C9H13N
reactant | H2SO4 | 10.5 mL | OS(=O)(=O)O | H2O4S
solvent | water | approx. 70 mL | O | H2O
solvent | EtOH | 135 mL | CCO | C2H6O
solvent | water | 300 mL | O | H2O
product | 2-ethyl-6-methyl-phenol | C(C)C1=C(C(=CC=C1)C)O | C9H12O
